US08106033B2
A. Methyl 2-(5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenylamino)acetate
To a stirred solution of methyl bromoacetate (5 mmol) and sodium acetate (5 mmol) in methanol (20 mL) was added (E)-5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxybenzenamine (1 mmol). The resulting mixture was heated to reflux temperature. The heated mixture was stirred at reflux temperature for 12 to 15 h. The heated mixture was then cooled and poured onto water ice (about 100 g). A precipitate formed. The precipitate was separated by filtration to provide the product in 85% yield. m.p. 182-185° C.

reactant | methyl bromoacetate | 5 mmol | BrCC(=O)OC | C3H5BrO2
reactant | sodium acetate | 5 mmol | C(C)(=O)[O-].[Na+]
reactant | (E)-5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxybenzenamine | 1 mmol | COC1=C(/C=C/S(=O)(=O)CC=2C=CC(=C(C2)N)OC)C(=CC(=C1)OC)OC | C19H23NO6S
solvent | methanol | 20 mL | CO | CH4O
product | Methyl 2-(5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenylamino)acetate | 85% yield | COC1=C(C=CS(=O)(=O)CC=2C=CC(=C(C2)NCC(=O)OC)OC)C(=CC(=C1)OC)OC | C22H27NO8S
